US08729068B2
A mixture of 350 mg of methyl 4-({[3-({3-[(4-{2-[4-(methoxycarbonyl)phenyl]ethyl}phenyl)carbamoyl]-4,5,6,7-tetrahydro-1-benzothiophen-2-yl}carbamoyl)phenyl]sulfonyl}amino)benzoate, 0.070 mL of isopropyl iodide, 193 mg of potassium carbonate, and 3.5 mL of DMF was stirred at 80° C. overnight. Further, 0.14 mL of isopropyl iodide was added thereto, followed by further stirring at 80° C. overnight. To the reaction mixture was added an aqueous citric acid solution, followed by extraction with ethyl acetate. The organic layer was washed with water and saturated brine in this order, then dried over anhydrous sodium sulfate, and concentrated under reduced pressure. The obtained residue was purified by silica gel column chromatography (hexane-chloroform) to obtain 264 mg of methyl 4-(isopropyl {[3-({3-[(4-{2-[4-(methoxycarbonyl)phenyl]ethyl}phenyl)carbamoyl]-4,5,6,7-tetrahydro-1-benzothiophen-2-yl}carbamoyl)phenyl]sulfonyl}amino)benzoate as a pale yellow solid.

reactant | methyl 4-({[3-({3-[(4-{2-[4-(methoxycarbonyl)phenyl]ethyl}phenyl)carbamoyl]-4,5,6,7-tetrahydro-1-benzothiophen-2-yl}carbamoyl)phenyl]sulfonyl}amino)benzoate | 350 mg | COC(=O)C1=CC=C(C=C1)CCC1=CC=C(C=C1)NC(=O)C1=C(SC2=C1CCCC2)NC(=O)C=2C=C(C=CC2)S(=O)(=O)NC2=CC=C(C(=O)OC)C=C2 | C40H37N3O8S2
reactant | isopropyl iodide | 0.070 mL | C(C)(C)I | C3H7I
reactant | potassium carbonate | 193 mg | C([O-])([O-])=O.[K+].[K+]
reactant | isopropyl iodide | 0.14 mL | C(C)(C)I | C3H7I
reactant | citric acid | C(CC(O)(C(=O)O)CC(=O)O)(=O)O | C6H8O7
solvent | DMF | 3.5 mL | CN(C)C=O | C3H7NO
product | methyl 4-(isopropyl {[3-({3-[(4-{2-[4-(methoxycarbonyl)phenyl]ethyl}phenyl)carbamoyl]-4,5,6,7-tetrahydro-1-benzothiophen-2-yl}carbamoyl)phenyl]sulfonyl}amino)benzoate | 264 mg | C(C)(C)N(C1=CC=C(C(=O)OC)C=C1)S(=O)(=O)C1=CC(=CC=C1)C(NC=1SC2=C(C1C(NC1=CC=C(C=C1)CCC1=CC=C(C=C1)C(=O)OC)=O)CCCC2)=O | C43H43N3O8S2
